US06888005B2
A known method consists in condensing 1,2-diaminobenzene with benzoic acid in the presence of polyphosphoric acid to give benzimidazole, and sulphonating this with, for example, chlorosulphonic acid (Am. Chem. Soc. 79, 427 (1957)).

reactant | 1,2-diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
